US08389513B2
5-Cyano-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4,5-difluoro-phenyl]-amide
The condensation of (R)-4-(5-amino-2,3-difluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-2) and 5-cyano-pyridine-2-carboxylic acid following procedure I yielded the title compound as a light yellow solid. MS (ISP): m/z=408.3 [M+H]+.

reactant | (R)-4-(5-amino-2,3-difluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=C(C(=C(C1)[C@]1(N=C(OCC1(F)F)N)C)F)F | C11H11F4N3O
reactant | 5-cyano-pyridine-2-carboxylic acid | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
product | 5-Cyano-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4,5-difluoro-phenyl]-amide | NC=1OCC([C@@](N1)(C)C=1C=C(C=C(C1F)F)NC(=O)C1=NC=C(C=C1)C#N)(F)F | C18H13F4N5O2
